US04997947
10 g of 30% sodium methoxide in methanol are added to a solution of 6 g of 6-cyclopropylpyridine-2,3-dicarboxylic acid diethyl ester and 3 g of 2-amino-2,3-dimethylbutyramide in 100 ml of ethanol and the reaction mixture is boiled under reflux for 3 hours. It is then concentrated, the residue is dissolved in a small amount of water, and the solution is saturated with sodium chloride. The pH is then adjusted to 4 with concentrated hydrochloric acid and the solution is extracted three times with 150 ml of ethyl acetate each time. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue crystallises from ether/hexane 1:2. In this manner 4 g of 6-cyclopropyl-2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-pyridinecarboxylic acid having a melting point of 118°-121° are obtained.

reactant | sodium methoxide | 10 g | C[O-].[Na+]
reactant | 6-cyclopropylpyridine-2,3-dicarboxylic acid diethyl ester | 6 g | C(C)OC(=O)C1=NC(=CC=C1C(=O)OCC)C1CC1 | C14H17NO4
reactant | 2-amino-2,3-dimethylbutyramide | 3 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
solvent | methanol | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-cyclopropyl-2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-pyridinecarboxylic acid | 4 g | C1(CC1)C1=CC=CC(N1)(C(=O)O)C=1NC(C(N1)=O)(C)C(C)C | C16H21N3O3
